US04803211
Using as starting materials 0.30 g of 4-acetyl-3-hydroxy-2-propylbenzyl chloride and 0.42 g of ethyl 4-[(5-mercapto-1,3,4-thiadiazol-2-yl]thio]butyrate, 0.59 g of oily ethyl 4-[[5-[(4-acetyl-3-hydroxy-2-propylbenzyl)thio]-1,3,4-thiadiazol-2-yl]thio]butyrate was obtained in a manner similar to Example 1.

reactant | 4-acetyl-3-hydroxy-2-propylbenzyl chloride | 0.30 g | C(C)(=O)C1=C(C(=C(CCl)C=C1)CCC)O | C12H15ClO2
reactant | ethyl 4-[(5-mercapto-1,3,4-thiadiazol-2-yl]thio]butyrate | 0.42 g | SC1=NN=C(S1)SCCCC(=O)OCC | C8H12N2O2S3
product | ethyl 4-[[5-[(4-acetyl-3-hydroxy-2-propylbenzyl)thio]-1,3,4-thiadiazol-2-yl]thio]butyrate | 0.59 g | C(C)(=O)C1=C(C(=C(CSC2=NN=C(S2)SCCCC(=O)OCC)C=C1)CCC)O | C20H26N2O4S3
